US08895313B2
2-(4-Aminophenyl)-6-methoxybenzothiazole
Prepared as described in the Nitro Reduction section using 2-(4-nitrophenyl)-6-methoxybenzothiazole (5.0 g, 17.5 mmol) and tin (II) dichloride dihydrate (31.5 g, 0.14 mol) in EtOH (150 ml) to give the title compound (4.2 g, 93%) as a colourless solid after work-up and recrystallisation from EtOH.

reactant | 2-(4-nitrophenyl)-6-methoxybenzothiazole | 17.5 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H10N2O3S
reactant | tin (II) dichloride dihydrate | 0.14 mol, 31.5 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 150 ml | CCO | C2H6O
product | 2-(4-Aminophenyl)-6-methoxybenzothiazole | 4.2 g, 93% | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
